US07776882B2
To the crude product, (S)-toluene-4-sulfonic acid 2-cyclohexyl-pent-4-enyl ester, in DMSO (40 mL) was added NaCN, and the resulting mixture was heated at 90° C. for 1.5 h. The reaction mixture was cooled to room temperature and treated with H2O (20 mL). The reaction mixture was then extracted with diethylether (3×25 mL), dried (MgSO4) and concentrated in vacuo to yield a residue which was purified by Kugelrohr distillation (0.19 mm Hg, 80-90° C.) to yield (R)-3-cyclohexyl-hex-5-enenitrile.

reactant | (S)-toluene-4-sulfonic acid 2-cyclohexyl-pent-4-enyl ester | C1(CCCCC1)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)CC=C | C18H26O3S
reactant | NaCN | [C-]#N.[Na+]
reactant | H2O | 20 mL | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | (R)-3-cyclohexyl-hex-5-enenitrile | C1(CCCCC1)[C@@H](CC#N)CC=C | C12H19N
